US09290514B2
Step 1. 6-Bromo-4-fluoro-2,3-dinitrophenol
To a solution of 2-bromo-4-fluoro-5-nitrophenol (4.0 g, 17 mmol) (Ark # AK-27735) in methylene chloride (29.5 mL), 2.0 M nitric acid in methylene chloride (25 mL) was added and the mixture was stirred for 15 min at RT. The mixture was poured into ice-cold water and extracted with methylene chloride to give the crude product, 4.42 g, 93%.

reactant | 2-bromo-4-fluoro-5-nitrophenol | 17 mmol, 4.0 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3BrFNO3
reactant | nitric acid | 2.0 M | [N+](=O)(O)[O-] | HNO3
solvent | methylene chloride | 29.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-4-fluoro-2,3-dinitrophenol | BrC1=CC(=C(C(=C1O)[N+](=O)[O-])[N+](=O)[O-])F | C6H2BrFN2O5
